US04772631
A mixture of p-(2-aminoethoxy)phenol hydrochloride, (1.89 g) triethylamine (1.01 g) and 1,2-epoxy-3-phenoxy-propane (1.5 g) was heated under reflux for 24 hours. The reaction mixture was cooled and the solvent was evaporated. The residue was partitioned between dichloromethane (100 ml) and 10% w/v potassium carbonate solution. The organic layer was separated, dried (MgSO4), and the solvent was evaporated. The residual oil was dissolved in ethyl acetate and dry hydrogen chloride was passed through the solution until no further solid precipitated. The precipitate was collected and recrystallised from methanol and ethyl acetate to give p-(2-[2-hydroxy-3-phenoxypropylamino]ethoxy)phenol hydrochloride (0.53 g) mp, 171° C.; microanalysis: found C, 60.3; H, 6.7; N, 4.0; Cl, 10.6%; required for C17H22NClO4 : C, 60.1; H, 6.5; N, 4.1; Cl, 10.5% NMR: 3.09 (dd, 1H, CHOH.CH2NH), 3.28 (dd, 1H, CHOH.CH2NH), 3.47 (t, 2H, NHCH2CH2), 4.15 (m, 2H, NHCH2CH2), 4.25 (m, 1H, CHOH), 5.01 (br s, 1H, CHOH), 6.67+6.79 (2d, 4 aromatic H), 6.92 (m, 3 aromatic H), 7.26 (t, 2 aromatic H), 9.1 (br s, NH2+ +phenolic OH). [Note: p-(2-[(2-hydroxy-3-phenoxypropylamino]ethoxy)phenol in addition to being a valuable intermediate also shows significant thermogenic properties in its own right (sub-cut.ED50 in test (b): 0.51 mg/kg; SI in test (c) >100) and is provided together with its pharmaceutically acceptable salts, and compositions, as a further feature of the invention.]

reactant | p-(2-aminoethoxy)phenol hydrochloride | 1.89 g | Cl.NCCOC1=CC=C(C=C1)O
reactant | 1,2-epoxy-3-phenoxy-propane | 1.5 g | O1CC1COC1=CC=CC=C1 | C9H10O2
solvent | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
product | p-(2-[2-hydroxy-3-phenoxypropylamino]ethoxy)phenol hydrochloride | 0.53 g | Cl.OC(CNCCOC1=CC=C(C=C1)O)COC1=CC=CC=C1 | InChI=1S/C17H21NO4.ClH/c19-14-6-8-17(9-7-14)21-11-10-18-12-15(20)13-22-16-4-2-1-3-5-16;/h1-9,15,18-20H,10-13H2;1H
